US09259470B2
Tetrahydro-2H-pyran-4-amine (0.45 g, 4.5 mmol) was added to (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one (0.48 g, 0.89 mmol) in DMA (4 mL) in a microwave vial. The mixture was heated at 120° C. for 1 hour in a microwave. The reaction mixture was diluted with water and extracted with EtOAc. The EtOAc was washed three times with dilute aqueous NaCl, water, twice with brine, dried over MgSO4, filtered, and evaporated to yield the desired (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-fluorophenyl)ethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.46 g, 0.82 mmol, 92% yield) as a film.

reactant | Tetrahydro-2H-pyran-4-amine | 4.5 mmol, 0.45 g | O1CCC(CC1)N | C5H11NO
reactant | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | 0.89 mmol, 0.48 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)F)Cl)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C24H29ClFN3O4SSi
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-fluorophenyl)ethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.82 mmol, 0.46 g, 92% yield | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)F)Cl)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O | C28H36ClFN4O3Si
